US06110939
Iodine (crystals) was added to magnesium turnings (8.63 g) in diethyl ether under N2. Benzyl bromide was added and the Grignard reaction was started. Benzyl bromide (60.65 g) in diethyl ether (443 ml) was added dropwise at reflux temperature while stirring, the reaction mixture was refluxed for 1 hour. The Grignard reagens was added dropwise to a suspension of 4-methoxy-1-(phenylmethyl)pyridinium bromide (75 g) in diethyl ether (1200 ml) and the mixture was stirred at RT for 18 hours. The mixture was poured into HCl (12M; 150 ml) and water (600 ml), alkalized with NH4OH and NaOH and extracted with CH2Cl2. The combined organic layers were washed with water, dried, filtered and the solvent was evaporated, yielding 76 g (100%) of (±)-1,2-dihydro-4-methoxy-1,2-bis(phenylmethyl)pyridine (interm 13).

reactant | Iodine | II | I2
reactant | magnesium | 8.63 g | [Mg] | Mg
reactant | Benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Benzyl bromide | 60.65 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-methoxy-1-(phenylmethyl)pyridinium bromide | 75 g | [Br-].COC1=CC=[N+](C=C1)CC1=CC=CC=C1
reactant | HCl | 12M, 150 ml | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
reactant | NaOH | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 443 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1200 ml | C(C)OCC | C4H10O
solvent | water | 600 ml | O | H2O
product | (±)-1,2-dihydro-4-methoxy-1,2-bis(phenylmethyl)pyridine | 76 g, 100% | COC1=CC(N(C=C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H21NO
